US07534894B2
A mixture of 4′-hydroxy-4-nitro-biphenyl (2.00 g, 7.51 mmol), prepared in the previous step, methyl bromoacetate (853 mL, 9.02 mmol) and potassium iodide (86 mg, 0.75 mmol) in 50 mL of acetone was stirred at room temperature until the mixture became cloudy. Potassium carbonate (2.26 g, 16.4 mmol) was added and the reaction refluxed overnight. The reaction was concentrated under reduced pressure and the residue partitioned between methylene chloride and water. The organic layer was separated, washed with water, dried (Na2SO4) and the solvent removed under reduced pressure to give (4′-nitro-biphenyl-4-yloxy)-acetic acid methyl ester.

reactant | 4′-hydroxy-4-nitro-biphenyl | 7.51 mmol, 2.00 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H9NO3
reactant | methyl bromoacetate | 9.02 mmol, 853 mL | BrCC(=O)OC | C3H5BrO2
reactant | potassium iodide | 0.75 mmol, 86 mg | [I-].[K+]
reactant | Potassium carbonate | 16.4 mmol, 2.26 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | (4′-nitro-biphenyl-4-yloxy)-acetic acid methyl ester | COC(COC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C15H13NO5
